US07122543B2
N-[5-(3,4,5,6-Tetramethoxy-2-methylbenzyl)-2-(3-pyridyl)benzoyl]-4-trifluoromethylaniline
To a solution of 5-(3,4,5,6-Tetramethoxy-2-methylbenzyl)-2-(3-pyridyl)benzoic acid (85 mg, 0.2004 mmol) in methylene chloride (5 ml) were added 4-trifluoromethylaniline (48 mg, 0.2981 mmol), triethylamine (41 mg, 0.4059 mmol) and 2-chloro-1,3-dimethylimidazolinium chloride (102 mg, 0.6035 mmol) followed by stirring at room temperature for 3 hours. The reaction solution was washed with water and dried and the solvent was evaporated therefrom. The residue was purified by preparative thin layer chromatography (methylene chloride:methanol=95:5) to give the title compound (60 mg, 0.1060 mmol, 53%).

reactant | 5-(3,4,5,6-Tetramethoxy-2-methylbenzyl)-2-(3-pyridyl)benzoic acid | 0.2004 mmol, 85 mg | COC=1C(=C(CC=2C=CC(=C(C(=O)O)C2)C=2C=NC=CC2)C(=C(C1OC)OC)OC)C | C24H25NO6
reactant | 4-trifluoromethylaniline | 0.2981 mmol, 48 mg | FC(C1=CC=C(N)C=C1)(F)F | C7H6F3N
reactant | triethylamine | 0.4059 mmol, 41 mg | C(C)N(CC)CC | C6H15N
reactant | 2-chloro-1,3-dimethylimidazolinium chloride | 0.6035 mmol, 102 mg | [Cl-].ClC1[NH+](CCN1C)C
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
product | N-[5-(3,4,5,6-Tetramethoxy-2-methylbenzyl)-2-(3-pyridyl)benzoyl]-4-trifluoromethylaniline | 0.1060 mmol, 60 mg, 53% | COC=1C(=C(CC=2C=CC(=C(C(=O)NC3=CC=C(C=C3)C(F)(F)F)C2)C=2C=NC=CC2)C(=C(C1OC)OC)OC)C | C31H29F3N2O5
